US05284828
To a mixture of Boc-D-Trp(CH3)-OH (1.59 g), HCl·H-D-Phe-OCH3 (1.08 g) and HOBT (0.81 g) in DMF (20 ml) was added WSCD (0.93 g) under ice-bath cooling. After being stirred for 2 hours at room temperature, the mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate (50 ml). The solution was washed with 0.5N hydrochloric acid (20 ml), water (20 ml), saturated sodium bicarbonate (20 ml) and water (20 ml×2) successively, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with ether to give Boc-D-Trp(CH3)-D-Phe-OCH3 (1.45 g).

reactant | Boc-D-Trp(CH3)-OH | 1.59 g | N([C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)O)C(=O)OC(C)(C)C | C17H22N2O4
reactant | HOBT | 0.81 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Boc-D-Trp(CH3)-D-Phe-OCH3 | 1.45 g | N([C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C27H33N3O5
